US04221919
The procedure of Example (1) (e) was repeated wherein 3-chloro-4-isobutyoxybenzyl chloride was reacted with methyl 3-chloro-4-hydroxyphenylacetate to yield 3-chloro-4-(3'-chloro-4'-isobutoxybenzyloxy) phenylacetic acid (52.4yield), m.p. 127.5°-129° C. (methanol-water).

reactant | 3-chloro-4-isobutyoxybenzyl chloride | ClC=1C=C(CCl)C=CC1OCC(C)C | C11H14Cl2O
reactant | methyl 3-chloro-4-hydroxyphenylacetate | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
solvent | methanol water | CO.O
product | 3-chloro-4-(3'-chloro-4'-isobutoxybenzyloxy) phenylacetic acid | ClC=1C=C(C=CC1OCC1=CC(=C(C=C1)OCC(C)C)Cl)CC(=O)O | C19H20Cl2O4
